US07285568B2
0.15 ml (1.33 mmol) of N-methylmorpholine is added to a solution of 0.5 g (1.2 mmol) of 3-{3′-[(tert-butoxycarbonylmethylamino)methyl]-biphenyl-4-yl}-2-ethoxypropionic acid, 0.14 g (1.3 mmol) of butyric hydrazide and 0.33 g (2.4 mmol) of 1-hydroxybenzotriazole in 10 ml of tetrahydrofuran cooled to −5° C. After stirring for 5 minutes, 0.2 ml (1.3 mmol) of diisopropylcarbodiimide is added. The reaction medium is stirred at 0° C. for 1 hour and then at room temperature for 2 hours, diluted with ethyl acetate, washed with saturated aqueous caesium hydrogen carbonate solution, extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated. The residue obtained is chromatographed on a column of silica eluted with a 1/1 heptane/ethyl acetate mixture. 0.6 g of tert-butyl N-{4′-[3-(N′-butyrylhydrazino)-2-ethoxy-3-oxopropyl]biphenyl-3-ylmethyl}-N-methylcarbamate is obtained in a yield of 100%.

reactant | N-methylmorpholine | 1.33 mmol, 0.15 ml | CN1CCOCC1 | C5H11NO
reactant | 3-{3′-[(tert-butoxycarbonylmethylamino)methyl]-biphenyl-4-yl}-2-ethoxypropionic acid | 1.2 mmol, 0.5 g | C(C)(C)(C)OC(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)O)OCC | C24H31NO5
reactant | butyric hydrazide | 1.3 mmol, 0.14 g | C(CCC)(=O)NN | C4H10N2O
reactant | 1-hydroxybenzotriazole | 2.4 mmol, 0.33 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylcarbodiimide | 1.3 mmol, 0.2 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl N-{4′-[3-(N′-butyrylhydrazino)-2-ethoxy-3-oxopropyl]biphenyl-3-ylmethyl}-N-methylcarbamate | 0.6 g, yield of 100% | C(CCC)(=O)NNC(C(CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C)OCC)=O | C28H39N3O5
